US05648373
1-(6-Bromohexyl)-2,4,5-triphenylimidazole (27.6 g) in dry dimethylsulphoxide (70 ml) was added over 10 minutes to a mixture of sodium cyanide (3.68 g) in dimethyl-sulphoxide (50 ml) and the reaction was stirred at room temperature for 20 h. The reaction mixture was poured into water (300 ml) and extracted with dichloromethane (3×150 ml). The extracts were combined, washed with water, dried over anhydrous magnesium sulphate and evaporated to dryness in vacuo. Recrystallisation from diethyl ether and hexane gave 1-(6-cyanohexyl)-2,4,5-triphenylimidazole (24.19 g, 99%) as a white solid, m.p. 104°-6°.

reactant | 1-(6-Bromohexyl)-2,4,5-triphenylimidazole | 27.6 g | BrCCCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H27BrN2
reactant | sodium cyanide | 3.68 g | [C-]#N.[Na+]
reactant | water | 300 ml | O | H2O
solvent | dimethylsulphoxide | 70 ml | CS(=O)C | C2H6OS
solvent | dimethyl-sulphoxide | 50 ml | CS(=O)C | C2H6OS
product | 1-(6-cyanohexyl)-2,4,5-triphenylimidazole | 24.19 g, 99% | C(#N)CCCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H27N3
